US07700786B2
A solution of 5-methyl-3-(4-nitro-2-trifluoromethylphenyloxy)pyrazole (5.3 g, 18.5 mmol) in ethanol (200 ml) was placed in an autoclave, and 10% palladium carbon (2.0 g) was added. An atmosphere in the autoclave was fully replaced with hydrogen gas, and hydrogen gas was filled up to 5 kg/cm2. Then, the reaction solution was stirred at room temperature for 4 hours. After completion of the reaction, the catalyst was separated by filtration using Celite, and the solvent was distilled off from the filtrate under reduced pressure, to give a white solid of 3-(4-amino-2-trifluoromethylphenyloxy)-5-methylpyrazole (3.6 g, yield: 76.1%). mp: 143-145° C.; 1H-NMR (DMSO-d6, DMSO, ppm): δ 2.17 (s, 3H), 5.33 (br s, 2H), 5.44 (s, 1H), 6.78 (dd, J=2.6 and 8.8 Hz, 1H), 6.88 (d, J=2.6 Hz, 1H), 6.95 (d, J=8.8 Hz, 1H), 11.80-11.95 (br s, 1H).

reactant | 5-methyl-3-(4-nitro-2-trifluoromethylphenyloxy)pyrazole | 18.5 mmol, 5.3 g | CC1=CC(=NN1)OC1=C(C=C(C=C1)[N+](=O)[O-])C(F)(F)F | C11H8F3N3O3
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 200 ml | C(C)O | C2H6O
catalyst | palladium carbon | 2.0 g | [C].[Pd]
product | 3-(4-amino-2-trifluoromethylphenyloxy)-5-methylpyrazole | 3.6 g, yield: 76.1% | NC1=CC(=C(C=C1)OC1=NNC(=C1)C)C(F)(F)F | C11H10F3N3O
